US04371694
1-Nitroanthraquinone was reacted in DMF at 20° C. with 5 moles n-butylamine for 5 hours. The reaction produced 1-butylamino anthraquinone which was a deep red solid having a melting point of 78° to 79° C.

reactant | 1-Nitroanthraquinone | [N+](=O)([O-])C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H7NO4
reactant | n-butylamine | 5 moles | C(CCC)N | C4H11N
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-butylamino anthraquinone | C(CCC)NC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C18H17NO2
